US05316755
3,3-Diphenyl-1-(2,4,6-triiodophenoxy)propane
A mixture of 2,4,6-triiodophenol (0.78 g, 1.65 mmol) and potassium carbonate (0.25 g, 1.82 mmol, 1.1 eq) in 5 ml of dimethylformamide was heated at 60° C. for 1 hr, cooled and then 3,3-diphenylpropyl bromide (0.5 g, 1.82 mmol) was added. After stirring for 30 minutes at room temperature the mixture was heated at 60° C. for 24 hrs. The mixture was then cooled, poured into water and the crude product was isolated by ethyl acetate extraction. The product was purified by silica gel chromatography (2.5% ethyl acetate - hexanes) followed by recrystallization from hexanes to give 0.53 g (48%) of a solid. Mp: 120°-121° C.

reactant | 2,4,6-triiodophenol | 1.65 mmol, 0.78 g | IC1=C(C(=CC(=C1)I)I)O | C6H3I3O
reactant | potassium carbonate | 1.82 mmol, 0.25 g, 1.1 eq | C([O-])([O-])=O.[K+].[K+]
reactant | 3,3-diphenylpropyl bromide | 1.82 mmol, 0.5 g | C1(=CC=CC=C1)C(CCBr)C1=CC=CC=C1 | C15H15Br
reactant | water | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3,3-Diphenyl-1-(2,4,6-triiodophenoxy)propane | 0.53 g, 48% | C1(=CC=CC=C1)C(CCOC1=C(C=C(C=C1I)I)I)C1=CC=CC=C1 | C21H17I3O
